US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-5-hydroxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride.
3-(3,4-Dichlorophenyl)-3-(6-hydroxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (1.5 g) was coupled to 4-acetamido-4-phenylpiperidine (0.7 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in Example 8 to afford the title compound (1.26 g); mp 212°-225° C.; MS: m/z=566(m+1); NMR: 2.00 (s,3), 2.22(m,5), 2.5 (m,2), 2.7(m,2), 2.99(s,3), 3.54(m, 1), 4.54 (d,1, J=3.4), 5.81 (s,1), 6.6 (m,1), 6.7 (m, 1), 6.97 (m, 1), 7.11 (m,2), 7.31 (m,6), 7.50 (d,1, J=8).

reactant | 3-(3,4-Dichlorophenyl)-3-(6-hydroxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 1.5 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=C(C=C12)O)=O)C | C18H15Cl2NO3
reactant | 4-acetamido-4-phenylpiperidine | 0.7 g | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-5-hydroxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 1.26 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1N(C(C2=CC=C(C=C12)O)=O)C | InChI=1S/C31H33Cl2N3O3.ClH/c1-20(37)34-31(22-6-4-3-5-7-22)13-16-36(17-14-31)15-12-24(21-8-11-27(32)28(33)18-21)29-26-19-23(38)9-10-25(26)30(39)35(29)2;/h3-11,18-19,24,29,38H,12-17H2,1-2H3,(H,34,37);1H
